Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
cough, fever, DOE
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ year old male and former ___ with a PMH of OSA,
histoplasmosis, and recurrent bronchitis as a child presenting
with 8 weeks of productive cough and 1 day of acute worsening
with fatigue, malaise, fever (Tmax =99.8) and DOE. 

During 24 hours prior to admission, had  subjective fevers, DOE
and malaise. However, no systemic symptoms prior to that. Though
he feels that his chest is congested and his cough productive, 
he
has not been able to bring up any sputum.

He went to see his PCP yesterday where ___ CXR was obtained that
was concerning for a cavitary lesion and he was sent to the ED. 

In the ED, initial vitals were:  
- Exam notable for:  Temp: 98.5 HR: 107 BP: 154/86 Resp: 18 O2
Sat: 97
General: ill-appearing male in NAD
HEENT: NC, AT. Posterior pharynx erythematous without exudates.
IMMM.
Neck: cervical lymphadenopathy
Chest: RML rales
CV: RRR, nrml s1/s2, no m/g/r.
Abdomen: soft, non-tender, no HSM
Ext: trace BLLE
Neuro: AOx3, cn2-12 intact, strength ___ in all extremities 
- Labs notable for:  

___  AGap=14
4.0231.4

            12.9
13.7>-------<308

    38.1

lactate normal = .8

UA showed 30 protein and 10 ketone but otherwise bland

- Imaging was notable for:  
CXR: RML consolidation with cavity with air-fluid level and 
trace
bilateral pleural effusions. Noted to be likely an abscess
CT Chest: Dense consolidative opacity in RUL most concerning for
PNA with no evidence of cavitation or abscess formation.
Calcified granuloma in RUL. Bibasilar atalectasis. Calcified
granulomas in the spleen. Calcified right hilar and mediastinal
lymph nodes. Concern for PNA and granulomatous disease. 

- Patient was given:  
Vancomycin (1000 mg ordered)
NS 1000 mL x2
Levofloxacin
BusPIRone 15 mg PO
CefTRIAXone
Levothyroxine Sodium 175 mcg PO
FLUoxetine 40 mg
amLODIPine 10 mg
HydrALAZINE 50 mg PO
Losartan Potassium 100 mg
Diclofenac Sodium ___ 75 mg
Heparin 5000 UNIT

Upon arrival to the floor, patient reports: cough but feeling
significantly better after IV antibiotics.

States that he has had night sweats approximately every 2 weeks
for the past ___ years without recent change. 

He used to work as an ___, but quit ___ years ago. No known
exposure to TB. Does not recall when he had his last PPD or
QuantGold. No travel abroad. Denies IVDU, military service, and
imprisonment. Denies hemoptysis, unintended weight loss
(intentional 35lb weight loss over ___ year), CP, dyspnea,
abdominal pain, n/v/d/c, edema, dysuria and hematuria.

 
Past Medical History:
HTN, bronchitis as a child, OSA with
biPAP, histoplasmosis (per patient), Anxiety, Depression,
Hypothyroidism, GERD, spinal stenosis, tonsillectomy as child 
and
burns when ___. 

 
Social History:
___
Family History:
Mother: HYPERTENSION, HYPOTHYROIDISM   
Father: CHRONIC OBSTRUCTIVE PULMONARY DISEASE, CONGESTIVE HEART
FAILURE

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITAL SIGNS: 24 HR Data (last updated ___ @ 1409)
    Temp: 98.0 (Tm 98.0), BP: 125/68, HR: 71, RR: 18, O2 sat:
96%, O2 delivery: Ra  
GENERAL: Sitting in chair, looks well INAD
HEENT: EOMI, PERRL, sclera anicteric, MMM
NECK:  Supple, no LAD. 
CARDIAC:  RRR, no rubs, murmurs, or gallops. No JVD.  
LUNGS: CTAB. CTPB. No egophony. 
ABDOMEN: Normactive bowel sounds. No tenderness to palpation. 
EXTREMITIES:  Trace edema at ankles bilaterally. Pulses 2+ blt. 
NEUROLOGIC: alert and orient. CN2-12 intact
SKIN: warm and well perfused. 
MSK: Strength ___ in UE bilaterally. 

DISCHARGE PHYSICAL EXAM:
========================
VITAL SIGNS: T 98.7F, BP 144/86, HR 85, 95% on RA 
GENERAL: Sitting up in bed, looks well in NAD
CARDIAC:  RRR, no rubs, murmurs, or gallops.
LUNGS: CTAB, no wheezes rales or rhonchi.
ABDOMEN: Normactive bowel sounds. No tenderness to palpation. 
EXTREMITIES: no clubbing, cyanosis, or edema
NEUROLOGIC: alert and orient. CN2-12 grossly intact.
SKIN: warm and well perfused. 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:22PM BLOOD WBC-13.7* RBC-4.97 Hgb-12.9* Hct-38.1* 
MCV-77* MCH-26.0 MCHC-33.9 RDW-18.5* RDWSD-49.7* Plt ___
___ 06:22PM BLOOD Neuts-78.1* Lymphs-10.5* Monos-10.2 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-10.70* AbsLymp-1.44 
AbsMono-1.39* AbsEos-0.05 AbsBaso-0.05
___ 06:22PM BLOOD Glucose-101* UreaN-23* Creat-1.4* Na-137 
K-4.0 Cl-100 HCO3-23 AnGap-14
___ 06:26PM BLOOD Lactate-0.8

___ 06:30PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

PERTINENT LABS/MICRO/IMAGING:
=============================
___ 09:56PM BLOOD QUANTIFERON-TB GOLD-PND
___ 07:12PM URINE Streptococcus pneumoniae Antigen 
Detection-PND

___ 06:19AM BLOOD calTIBC-290 VitB12-485 Folate-14 
Hapto-512* Ferritn-115 TRF-223

Micro:
------
___ 6:22 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date.

___ 6:30 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
 
___ 8:30 pm SPUTUM      Source: Induced. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Pending): 

___ 7:12 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 

___ 5:00 am SPUTUM      Source: Induced. 

   ACID FAST SMEAR (Pending): 

   ACID FAST CULTURE (Pending): 

___ 2:00 pm SPUTUM      Source: Induced. 

   GRAM STAIN (Pending): 

   RESPIRATORY CULTURE (Pending): 

   ACID FAST SMEAR (Pending): 

   ACID FAST CULTURE (Pending): 

   MTB Direct Amplification (Pending): 

DISCHARGE LABS:
===============
___ 06:19AM BLOOD WBC-11.1* RBC-4.51* Hgb-11.9* Hct-35.0* 
MCV-78* MCH-26.4 MCHC-34.0 RDW-18.2* RDWSD-50.4* Plt ___
___ 06:19AM BLOOD Glucose-89 UreaN-20 Creat-1.4* Na-140 
K-4.0 Cl-103 HCO3-24 AnGap-13
___ 06:19AM BLOOD Calcium-8.6 Phos-3.8 Mg-2.0 Iron-14*
___ 06:19AM BLOOD ALT-54* AST-38 LD(LDH)-191 AlkPhos-71 
TotBili-0.3

 
Brief Hospital Course:
Pt is a ___ year old male former ___ with a PMH of OSA, 
histoplasmosis, and recurrent bronchitis as a child presenting 
with 8 weeks of productive cough and 1 day of acute worsening 
with fatigue, malaise, fever (Tmax =99.8) and DOE, found to have 
RUL infiltrate c/f CAP vs TB. 

ACUTE ISSUES
-------------
# Community Acquired Pneumonia
Pt presented with 8 weeks of cough and nasal congestion that 
worsened acutely for 1 day with fever (Tmax 99.8), fatigue, and 
DOE. A CXR showed a RML infiltrate with concern for a cavity 
lesion, but a subsequent CT chest showed a RUL infiltrate in the 
inferoposterior aspect of the upper lobe, which is more 
consistent with CAP. Initially started on IV vancomycin and 
ceftriaxone, transitioned to 5 day course of CTX and 
azithromycin for CAP. Rapid clinical improvement during hospital 
stay. Transitioned to oral cefpodoxime and azithromycin at 
discharge. Given subacute presentation, possible exposure as 
HCW, UL infiltrate, and calcified mediastinal lymph nodes, TB 
rule out was initiated. He gave 3 induced sputum samples for AFB 
smears and cultures and a NAAT. He was instructed to follow TB 
precautions including not boarding a plane. He will remain home 
if possible and wear a mask in public pending results.

# Calcified mediastinal and hilar lymph nodes on CT
Concern for past granulomatous disease. Possibly indicative of 
prior histplasmosis, though TB must be considered TB as well as 
above. No prior h/o lymphoma.

# Elevated creatinine
Cr = 1.4 on presentation. Per patient, baseline is 1.3 to 1.4 
due to body building. Stable despite 500 cc fluid challenge. 
Likely baseline.

# Anemia
Hbg between 11.9-12.9 over his stay with low MCV of 77-79 and 
low iron but ferritin and transferrin wnl. Concern for iron 
deficiency. Labs not consistent with hemolysis. Follow up for IV 
vs po repletion is recommended. 

CHRONIC
=======
#HTN
Continued home medications except losartan held the first day of 
his admission out of concern for ___. Restarted prior to 
discharge. 

#Depression/anxiety
Stable. continued home meds.

#GERD
Stable. Continued home pantoprazole.

#spinal stenosis
No analgesia needed during stay.

#OSA
Bipap not given during stay.

Transitional Issues
===================
[] Completing 5-day course of cefpodoxime and azithromycin for 
CAP (last dose = ___
[] Obtained sputum samples for TB rule out. Results pending on 
discharge. Please follow up.
[] Please ensure compliance with TB precautions. 
[] Creatinine 1.4, likely baseline in the setting of 
bodybuilding. Please ensure stability. 
[] HgB around 12, serum iron 14. Please follow up and consider 
iv infusions vs po repletion. 
[] Labs were also notable for mild transaminitis as well as 
proteinuria. Would repeat LFT's and UA as outpatient and 
consider further evaluation as needed.

# CODE: full (presumed) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. BusPIRone 15 mg PO TID 
3. Diclofenac Sodium ___ 75 mg PO BID:PRN pain 
4. FLUoxetine 40 mg PO DAILY 
5. HydrALAZINE 50 mg PO Q8H 
6. Levothyroxine Sodium 175 mcg PO DAILY 
7. Losartan Potassium 100 mg PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Terazosin 10 mg PO QHS 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
RX *albuterol sulfate [ProAir HFA] 90 mcg 1 puff INH every six 
(6) hours Disp #*1 Inhaler Refills:*0 
2.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
3.  Cefpodoxime Proxetil 200 mg PO Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*7 Tablet Refills:*0 
4.  amLODIPine 10 mg PO DAILY  
5.  BusPIRone 15 mg PO TID  
6.  Diclofenac Sodium ___ 75 mg PO BID:PRN pain  
7.  FLUoxetine 40 mg PO DAILY  
8.  HydrALAZINE 50 mg PO Q8H  
9.  Levothyroxine Sodium 175 mcg PO DAILY  
10.  Losartan Potassium 100 mg PO DAILY  
11.  Pantoprazole 40 mg PO Q24H  
12.  Terazosin 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community Acquired Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
- You had a worsening cough along with fever, fatigue, shortness 
of breath with exertion. We believe you had these symptoms due 
to a community acquired pneumonia. 

What was done for you in the hospital:
- We did a chest x-ray and a CT scan to find the source of 
disease in your lungs and found an infiltrate in the upper lobe 
of your right lung
- We gave you antibiotics to treat the pneumonia
- we also obtained sputum samples to rule out tuberculosis. The 
results were pending at the time of discharge. 

What you should do after you leave the hospital:
- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.
- Wear one of the masks that we provided for you when you leave 
the home, avoid contact with young children or the elderly, and 
do not travel until we contact you about the results of your 
tests for tuberculosis. We will contact you as soon as those 
test return.
- Please make a follow up appointment with your PCP when you 
return home.
- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___